US09421276B2
Synthesis of 6-Azidohexanoic Acid (AHA).
AHA was synthesized following a reported method with modifications. To methyl 6-azidohexanoate (3.4 g, 20 mmol) in 20 ml of mixture of MeOH/H2O (4/1 v/v) LiOH (2.5 g, 60 mmol) was added. After being stirred for 5 h at room temperature, the reaction mixture was poured into brine and washed with hexane to remove unreacted Ester. The aqueous fraction was acidified with HCl, extracted with ethyl acetate. Combined organic fractions were washed with brine and died over MgSO4. Ethyl acetate was removed under reduced pressure that resulted to transparent liquid. Yield 93%.

reactant | methyl 6-azidohexanoate | 20 mmol, 3.4 g | N(=[N+]=[N-])CCCCCC(=O)OC | C7H13N3O2
reactant | MeOH H2O | CO.O
reactant | LiOH | 60 mmol, 2.5 g | [Li+].[OH-]
solvent | brine | [Cl-].[Na+].O
product | 6-Azidohexanoic Acid | Yield 93% | N(=[N+]=[N-])CCCCCC(=O)O | C6H11N3O2
